US08633211B2
{1-[(2,6-Dichloro-pyridin-4-ylcarbamoyl)-methyl]-2,4-dioxo-1,4-dihydro-2H-quinazolin-3-yl}-acetic acid
A round bottomed flask is charged with {1-[(2,6-Dichloro-pyridin-4-ylcarbamoyl)-methyl]-2,4-dioxo-1,4-dihydro-2H-quinazolin-3-yl}-acetic acid tert-butyl ester (50.9 mg, 0.106 mmol) is treated with DCM (1.5 ml) and TFA (1.5 ml). The reaction mixture is stirred at RT for 2 hours and then concentrated in vacuo. The residue is taken up in a minimal amount of DCM and concentrated in vacuo. This process is repeated twice with EtOAc, and twice with MeOH to give the title compound, [M+H]+ 422

reactant | {1-[(2,6-Dichloro-pyridin-4-ylcarbamoyl)-methyl]-2,4-dioxo-1,4-dihydro-2H-quinazolin-3-yl}-acetic acid tert-butyl ester | 0.106 mmol, 50.9 mg | C(C)(C)(C)OC(CN1C(N(C2=CC=CC=C2C1=O)CC(NC1=CC(=NC(=C1)Cl)Cl)=O)=O)=O | C21H20Cl2N4O5
reactant | TFA | 1.5 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 1.5 ml | C(Cl)Cl | CH2Cl2
product | {1-[(2,6-Dichloro-pyridin-4-ylcarbamoyl)-methyl]-2,4-dioxo-1,4-dihydro-2H-quinazolin-3-yl}-acetic acid | ClC1=NC(=CC(=C1)NC(=O)CN1C(N(C(C2=CC=CC=C12)=O)CC(=O)O)=O)Cl | C17H12Cl2N4O5
